US06476029B1
2-Hexanoylamino-propionic acid
The preparation is carried out analogously to the procedure of Example 4A using 16.5 g (0.185 mol) of D,L-alanine, 41.23 g (0.407 mol) of triethylamine, 44.27 g (0.407 mol) of trimethylsilyl chloride and 24.93 g (0.185 mol) of hexanoyl chloride. The product crystallizes from toluene/n-hexane.

reactant | D,L-alanine | 0.185 mol, 16.5 g | NC(C)C(=O)O | C3H7NO2
reactant | triethylamine | 0.407 mol, 41.23 g | C(C)N(CC)CC | C6H15N
reactant | trimethylsilyl chloride | 0.407 mol, 44.27 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | hexanoyl chloride | 0.185 mol, 24.93 g | C(CCCCC)(=O)Cl | C6H11ClO
product | 2-Hexanoylamino-propionic acid | C(CCCCC)(=O)NC(C(=O)O)C | C9H17NO3
